data/pmechdb/original/mc_train_fold0/raw/train.txt
[CH3:10][Mg:11]Cl.C[P+:20](C)([Mg]Cl)Cl>>C[P:20](C)([CH3:10])([Mg]Cl)Cl.[Mg+:11]Cl 10,11=10,20
[H:20][N+:21](CC)(CC)CC.CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCCC[OH+]S(=O)(=O)[CH2-:10].[Cl-]>>[H:20][CH2:10]S(=O)(=O)[OH+]CCCCC1C(C2C(C(C(=O)O2)C)C3C1N(CC3)C(=O)OC)CC.CC[N:21](CC)CC.[Cl-] 10=20;20,21=21
CC(C)CC1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C)C)C.CC(C)[O-].CC(=O)C>>CC(C)CC1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O[Al:10](OC(C)C)OC(C)C)C)C.CC(C)[OH:11].CC(C)[O-].CC(=O)C 10,11=11
[H:20][O:21]C1=C(C=CC=C1)C2=CC=CC=C2.[H:10][Na:11]>>C1=CC=C(C=C1)C2=C(C=CC=C2)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[Li-:10]1[N+](=CC(C([OH+:11]1)CCCCCCC)(C)[Si](CC)(CC)CC)C(C)(C)C.O>>[Li:10][N+](=CC(C)(C(CCCCCCC)[OH:11])[Si](CC)(CC)CC)C(C)(C)C.O 10,11=11
[Li-]([O+:23]=[C:22]([CH:21]=[CH:20]CBr)OC)[S:10]C(C)(C)C>>[Li-]1[O:23][C:22](=[CH:21][CH:20]([S+:10]1C(C)(C)C)CBr)OC 10=20;22,23=23;20,21=21,22
C(=[O:10])N.Cl[Ti:20](Cl)(Cl)Cl>>C(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)N 10=20,
[H:20][O:21]C(CCC)C1=CC=CC=C1.[H:10][Na:11]>>CCCC(C1=CC=CC=C1)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
C[N:10]1CCCC1.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C[N+:10]1(CCCC1)[CH2:20]C2=CC=C(C=C2)C#N.[Br-:21] 10=20;20,21=21
CCN1CCC23[CH:20]4[CH-:10]CCC2(C1CC5=C3C(=C(C=C5)OC)[O:21]4)O.N#N.O.[K+]>>CCN1CCC23[CH:20]=[CH:10]CCC2(C1CC4=C3C(=C(C=C4)OC)[O-:21])O.N#N.O.[K+] 10=20;20,21=21
[B:20]([O+](C)C1=C(C(=CC=C1)CCC)C)(Br)Br.[Br-:10]>>[B-:20]([O+](C)C1=C(C(=CC=C1)CCC)C)(Br)(Br)[Br:10] 10=20,
[H:10][C:11](C)(C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[CH:20]C>>[H:10][CH:20](C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11](C)C 10,11=10,20;20,21=21;12=11
C[Si-:11](C)(C)([CH2:10][C+:20]=C1CC(CC1O[Zn-](Cl)Cl)C2=CC=CC=C2)Cl>>C[Si:11](C)(C)Cl.[CH2:10]=[C:20]=C1CC(CC1O[Zn-](Cl)Cl)C2=CC=CC=C2 10,11=10,20
CC(C)[C:20]1(CC[C:11](=[CH:10]1)[O-:12])[OH:21].CCO.O.[OH2+][Na]>>CC(C)[C:20]1=[CH:10][C:11](=[O:12])CC1.[OH-:21].CCO.O.[OH2+][Na] 10,11=10,20;20,21=21;12=11
[H:20][N+:21]1(CCN(CC1)C2=CC=C(C=C2)F)C(C34CCC(C3C5CCC6C7(CCC(=O)C(C7CCC6(C5(CC4)C)C)(C)C)C)C(=C)C)([O-])Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CC(=C)C1CCC2(C1C3CCC4C5(CCC(=O)C(C5CCC4(C3(CC2)C)C)(C)C)C)C([N:21]6CCN(CC6)C7=CC=C(C=C7)F)([O-])Cl 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)[N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=CC(=C2)[N+](=O)[O-])[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
CCCCCCC1CC2(C3CC4=C5C2(CC[N+:21]3([CH3:20])C#N)C(C1=O)OC5=C(C=C4)OC(=O)C)OC(=O)C.[Br-:10]>>CCCCCCC1CC2(C3CC4=C5C2(CC[N:21]3C#N)C(C1=O)OC5=C(C=C4)OC(=O)C)OC(=O)C.[CH3:20][Br:10] 10=20;20,21=21
CO[C:20]([NH2:10])([OH2+:21])OC>>CO[C:20](=[NH2+:10])OC.[OH2:21] 10=20;20,21=21
[H:20][O:21][CH:22]=[NH2+:23].[NH3:10].[C-]#N>>[H:20][NH3+:10].[CH:22](=[O:21])[NH2:23].[C-]#N 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C.[OH2:21] 10,11=10,20;20,21=21
C[CH+:20]C.[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)Br>>C[CH:20](C)[CH:10]1C=C[C+:13]([CH:12]=[CH:11]1)Br 10,11=10,20;12,13=11,12
[H:20][O+:21]1C(CC2CC(CC(O2)CC3=C(C1([O-])OC(=[NH+]C4CCCCC4)NC5CCCCC5)C(=CC=C3)OC)O[Si](C)(C)C(C)(C)C)CC=C.CN(C)C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=C(C=C1)N(C)C.CC(C)(C)[Si](C)(C)OC1CC2CC([O:21]C(C3=C(CC(C1)O2)C=CC=C3OC)([O-])OC(=[NH+]C4CCCCC4)NC5CCCCC5)CC=C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(COC1=CC=C(C=C1)OC)(C2(CC2)SC3=CC=CC=C3)[OH:10]>>[H:20][OH+:10]C(C)(COC1=CC=C(C=C1)OC)C2(CC2)SC3=CC=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CC1(C2C[CH2:10][C:11](C2)([C:20]13C[Br+:21]3)[OH:12])C.C1CC(=O)[N-]C1=O>>CC1(C2C[CH2:10][C:20]1([C:11](=[OH+:12])C2)C[Br:21])C.C1CC(=O)[N-]C1=O 10,11=10,20;20,21=21;12=11
[Li:11][CH:10](C#C[Si](C(C)C)(C(C)C)C(C)C)[Si](C(C)C)(C(C)C)C(C)C.CCC1C=CC=CC(C(O1)C[CH:20]=[O:21])O[Si](C)(C)C(C)(C)C.CCCC>>[Li+:11].CCC1C=CC=CC(C(O1)C[CH:20]([CH:10](C#C[Si](C(C)C)(C(C)C)C(C)C)[Si](C(C)C)(C(C)C)C(C)C)[O-:21])O[Si](C)(C)C(C)(C)C.CCCC 10,11=10,20;20,21=21
[H:20][O+:21](C)P(OC)(I)I.C[OH:10]>>COP([O:21]C)(I)I.[H:20][OH+:10]C 10=20;20,21=21
C1=CC=C(C=C1)C#CC2=C(C=CC=C2)[N:10]=[N:20][OH2+:21].[B-](=[O+]C(C)(C)C)(F)F.CC#N.[F-]>>C1=CC=C(C=C1)C#CC2=C(C=CC=C2)[N+:10]#[N:20].[OH2:21].[B-](=[O+]C(C)(C)C)(F)F.CC#N.[F-] 10=20;20,21=21
C[C:11](=[CH:10]C(=O)OC)[O-:12].[CH3:20][Br:21]>>[CH3:20][CH:10]([C:11](=[O:12])C)C(=O)OC.[Br-:21] 10,11=10,20;20,21=21;12=11
CC1=C[CH:10]=[C:11](O1)C.[Br:20][Br:21]>>CC1=C[CH:10]([C+:11](O1)C)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CC(=O)C[CH:10](C1=CC=CC=C1)[OH2+:11]>>CC(=O)C[CH+:10]C1=CC=CC=C1.[OH2:11] 10,11=11
[H:20][O:21][S:22](=O)(=[O:23])[O-].C[NH+]1CCC(CC1)(C#[N:10])C2=CC=CC=C2.CO>>[H:20][N+:10]#CC1(CC[NH+](CC1)C)C2=CC=CC=C2.[O-:23][S:22](=O)(=[O:21])[O-].CO 10=20;22,23=23;20,21=21,22
C1=CS[CH:10]=[CH:11]1.O[S+:20](=O)=O>>C1=CS[CH:10]([CH+:11]1)[S:20](=O)(=O)O 10,11=10,20
[H:20][NH+:21]1CCCC1C(=O)[O-].CC12CCC(=[N+]3CCCC3C(=O)[O-])CC1(CCC2=O)[O-:10].O>>[H:20][O:10]C12CCC(=O)C1(CCC(=[N+]3CCCC3C(=O)[O-])C2)C.C1CC([NH:21]C1)C(=O)[O-].O 10=20;20,21=21
